US06624159B2
Diethyl 2-((2,2-Dimethyl-2,3-dihydro-1H-indol-1-yl)methylene)malonate [C.2]
A mixture of 2,2-dimethylindoline (1.47 g) and diethyl ethoxymethylenemalonate (2.0 ml) is heated to 105° C. for 17 hours to afford the title compound as a pale yellow oil. Physical characteristics: 1H NMR (CDCl3) δ7.76, 7.18, 7.12, 6.97, 6.74, 4.24, 3.16, 1.50, 1.34.

reactant | 2,2-dimethylindoline | 1.47 g | CC1(NC2=CC=CC=C2C1)C | C10H13N
reactant | diethyl ethoxymethylenemalonate | 2.0 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl 2-((2,2-Dimethyl-2,3-dihydro-1H-indol-1-yl)methylene)malonate | CC1(N(C2=CC=CC=C2C1)C=C(C(=O)OCC)C(=O)OCC)C | C18H23NO4
